US06743939B2
b) 2-[4-Chloro-1-(2,5-dichlorophenoxy)butyl]thiophene
4-Chloro-1-thiophen-2-yl-butan-1-ol (2.98 g, 15.6 mmol), 2,5-dichlorophenol (2.55 g, 15.6 mmol) and triphenylphosphine (4.91 g,18.7 mmol) were dissolved in anhydrous tetrahydrofuran (80 ml) and the solution cooled to 0° C. Diethyl azodicarboxylate (3.26 g, 18.7 mmol) was added dropwise and the reaction allowed to warm to room temperature, then stirred for 5 hours. The solvent was removed in vacuo and the residue passed down a flash silica chromatography column, eluting with hexane:ethyl acetate (9:1) to give the title compound as a colourless oil (3.0 g, 57%).

reactant | 4-Chloro-1-thiophen-2-yl-butan-1-ol | 15.6 mmol, 2.98 g | ClCCCC(O)C=1SC=CC1 | C8H11ClOS
reactant | 2,5-dichlorophenol | 15.6 mmol, 2.55 g | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | triphenylphosphine | 18.7 mmol, 4.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 18.7 mmol, 3.26 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2-[4-Chloro-1-(2,5-dichlorophenoxy)butyl]thiophene | 3.0 g, 57% | ClCCCC(OC1=C(C=CC(=C1)Cl)Cl)C=1SC=CC1 | C14H13Cl3OS
